US06900227B2
Preparation of 4-methoxyphenyl-phenyl-dichloromethane (R. Laatikainen, V. Kral, J. Chem. Soc., Perkin Trans. 2 (8) (1985) 1091-1100; U.S. Pat. No. 3,824,310)
From benzotrifluoride (146 mg, 1 mmol), AlCl3 (400 mg, 3 mmol) and anisole (108 mg, 1 mmol), dark red viscous oil (352 mg, 132% crude).

reactant | benzotrifluoride | 1 mmol, 146 mg | C1(=CC=CC=C1)C(F)(F)F | C7H5F3
reactant | AlCl3 | 3 mmol, 400 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | anisole | 1 mmol, 108 mg | C1(=CC=CC=C1)OC | C7H8O
product | 4-methoxyphenyl-phenyl-dichloromethane | COC1=CC=C(C=C1)C(Cl)(Cl)C1=CC=CC=C1 | C14H12Cl2O
